US07737135B2
d)2-iodo-4-(trifluoromethyl)-phenol
4-(trifluoromethyl)-phenol (8 g) in anhydrous DMF (80 ml) was cooled to 0° C. NaI (9.06 g) and chloroamine-T (16.1 g) was added portionwise and stirred at room temperature overnight. Then diluted with 2M HCl and extracted with ethylacetate. The organic phase was washed with sodium thiosulfate solution, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (silica, eluting with isohexane:ethyl acetate) to give the sub-title compound as a yellow oil (13 g).

reactant | 4-(trifluoromethyl)-phenol | 8 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | NaI | 9.06 g | [Na+].[I-]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | HCl | 2M | Cl | ClH
product | 2-iodo-4-(trifluoromethyl)-phenol | 13 g | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
